US03936398
To a one liter flask equipped with heating jacket, agitator and condenser fitted with a Dean-Stark trap was charged 136 grams (1.2 mole) 5-methyl-2-hexanone, 88 grams (1.0 mole) 2-butene-1,4-diol, 160 grams cyclohexane, 2 grams citric acid and 0.3 grams hydroquinone. The mixture was heated with vigorous agitation at reflux (87°- 97°C.) until water no longer continued to be distilled from the reaction mixture (24 hours). The reaction mixture was cooled to room temperature and the citric acid neutralized by washing the reaction mixture with a 5% aqueous solution of sodium hydroxide and then with water. The reaction mixture was then distilled to remove the cyclohexane and the oil vacuum distilled to obtain 152 grams (83% of theoretical) of 4,7-dihydro-2-isopentyl-2-methyl-1,3-dioxepin having a boiling point of 94°C. at a pressure of 9.0 millimeters of mercury (refractive index, ND20 = 1.4523). Analysis for carbonyl content by IR showed 0.0% carbonyl and VPC analysis showed the compound to have a purity of 97.4%.

reactant | 5-methyl-2-hexanone | 1.2 mole, 136 grams | CC(CCC(C)=O)C | C7H14O
reactant | 2-butene-1,4-diol | 1.0 mole, 88 grams | C(C=CCO)O | C4H8O2
reactant | cyclohexane | 160 grams | C1CCCCC1 | C6H12
catalyst | citric acid | 2 grams | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
catalyst | hydroquinone | 0.3 grams | C1(O)=CC=C(O)C=C1 | C6H6O2
solvent | water | O | H2O
product | 4,7-dihydro-2-isopentyl-2-methyl-1,3-dioxepin | 152 grams, 83% | C(CC(C)C)C1(OCC=CCO1)C | C11H20O2
